US05350762
1,2,3,4,-Tetrahydro-7-methoxycyclopent[b]indole-2-carboxylic acid
To 250 ml of 80% acetic acid in water were added 4-methoxyphenylhydrazine hydrochloride (21 g, 0.12 mole) and 3-oxocyclopentane carboxylic acid (20 g, 0.15 mole). After stirring at ambient temperature for two hours, the mixture was stirred at 100° C. for three hours. After cooling, the mixture was filtered, and the tan precipitate washed with water, and dried to give 15 g of a solid, mp ~200° C. A sample of this material was recrystallized from ethanol/ether (1:2) to give a tan solid, mp 210° C. (dec.).

reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | 4-methoxyphenylhydrazine hydrochloride | 0.12 mole, 21 g | Cl.COC1=CC=C(C=C1)NN
reactant | 3-oxocyclopentane carboxylic acid | 0.15 mole, 20 g | O=C1CC(CC1)C(=O)O | C6H8O3
solvent | water | O | H2O
product | 1,2,3,4,-Tetrahydro-7-methoxycyclopent[b]indole-2-carboxylic acid | 15 g | COC1=CC=2C3=C(NC2C=C1)CC(C3)C(=O)O | C13H13NO3
